US04677129
(a) 1-(4-aminophenyl)-3-cyclohexyl-3-azabicyclo[3.1.1]-heptane-2,4-dione
In a manner analogous to that described in Example 1a, 6.0 g of 3-cyclohexyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.1]-heptane-2,4-dione are dissolved in 120 ml of 2-methoxyethanol, hydrogenated in the presence of 0.6 g of 5% palladium-on-carbon and worked up. Melting point 139°-14020 (from ether).

reactant | 3-cyclohexyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.1]-heptane-2,4-dione | 6.0 g | C1(CCCCC1)N1C(C2(CC(C1=O)C2)C2=CC=C(C=C2)[N+](=O)[O-])=O | C18H20N2O4
reactant | ether | CCOCC | C4H10O
solvent | 2-methoxyethanol | 120 ml | COCCO | C3H8O2
catalyst | palladium-on-carbon | 0.6 g | [Pd] | Pd
product | 1-(4-aminophenyl)-3-cyclohexyl-3-azabicyclo[3.1.1]-heptane-2,4-dione | NC1=CC=C(C=C1)C12C(N(C(C(C1)C2)=O)C2CCCCC2)=O | C18H22N2O2
